* Subcircuit vedic_multiplier_4bit
.subckt vedic_multiplier_4bit net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ 
* c:\fossee\esim\library\subcircuitlibrary\vedic_multiplier_4bit\vedic_multiplier_4bit.cir
.include partial_product_generator.sub
.include HA_kalyan.sub
x1 net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u3-pad3_ net-_u3-pad4_ net-_u4-pad1_ net-_u4-pad2_ net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ net-_u5-pad5_ net-_u5-pad6_ net-_u5-pad7_ net-_u5-pad8_ partial_product_generator
* u4  net-_u4-pad1_ net-_u4-pad2_ net-_u1-pad10_ net-_u1-pad9_ dac_bridge_2
* u2  net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ net-_u2-pad9_ net-_u2-pad10_ net-_u2-pad11_ net-_u2-pad12_ net-_u2-pad13_ ksa_4bit
* u3  net-_u10-pad2_ net-_u10-pad2_ net-_u3-pad3_ net-_u3-pad4_ net-_u2-pad10_ net-_u2-pad11_ net-_u2-pad12_ net-_u2-pad13_ net-_u3-pad9_ net-_u3-pad10_ net-_u3-pad11_ net-_u3-pad12_ net-_u3-pad13_ ksa_4bit
* u6  net-_u3-pad12_ net-_u3-pad13_ net-_u1-pad12_ net-_u1-pad11_ dac_bridge_2
* u5  net-_u5-pad1_ net-_u5-pad2_ net-_u3-pad10_ net-_u3-pad11_ net-_u5-pad5_ net-_u5-pad6_ net-_u5-pad7_ net-_u5-pad8_ net-_u5-pad9_ net-_u5-pad10_ net-_u5-pad11_ net-_u5-pad12_ net-_u5-pad13_ ksa_4bit
x2 net-_u8-pad3_ net-_u8-pad4_ net-_u9-pad2_ net-_u9-pad1_ HA_kalyan
* u7  net-_u5-pad9_ net-_u5-pad10_ net-_u5-pad11_ net-_u5-pad12_ net-_u5-pad13_ net-_u1-pad17_ net-_u1-pad16_ net-_u1-pad15_ net-_u1-pad14_ net-_u1-pad13_ dac_bridge_5
* u8  net-_u2-pad9_ net-_u3-pad9_ net-_u8-pad3_ net-_u8-pad4_ dac_bridge_2
* u9  net-_u9-pad1_ net-_u9-pad2_ net-_u5-pad2_ net-_u5-pad1_ adc_bridge_2
* u10  gnd net-_u10-pad2_ adc_bridge_1
a1 [net-_u4-pad1_ net-_u4-pad2_ ] [net-_u1-pad10_ net-_u1-pad9_ ] u4
a2 [net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ ] [net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ ] [net-_u2-pad9_ net-_u2-pad10_ net-_u2-pad11_ net-_u2-pad12_ net-_u2-pad13_ ] u2
a3 [net-_u10-pad2_ net-_u10-pad2_ net-_u3-pad3_ net-_u3-pad4_ ] [net-_u2-pad10_ net-_u2-pad11_ net-_u2-pad12_ net-_u2-pad13_ ] [net-_u3-pad9_ net-_u3-pad10_ net-_u3-pad11_ net-_u3-pad12_ net-_u3-pad13_ ] u3
a4 [net-_u3-pad12_ net-_u3-pad13_ ] [net-_u1-pad12_ net-_u1-pad11_ ] u6
a5 [net-_u5-pad1_ net-_u5-pad2_ net-_u3-pad10_ net-_u3-pad11_ ] [net-_u5-pad5_ net-_u5-pad6_ net-_u5-pad7_ net-_u5-pad8_ ] [net-_u5-pad9_ net-_u5-pad10_ net-_u5-pad11_ net-_u5-pad12_ net-_u5-pad13_ ] u5
a6 [net-_u5-pad9_ net-_u5-pad10_ net-_u5-pad11_ net-_u5-pad12_ net-_u5-pad13_ ] [net-_u1-pad17_ net-_u1-pad16_ net-_u1-pad15_ net-_u1-pad14_ net-_u1-pad13_ ] u7
a7 [net-_u2-pad9_ net-_u3-pad9_ ] [net-_u8-pad3_ net-_u8-pad4_ ] u8
a8 [net-_u9-pad1_ net-_u9-pad2_ ] [net-_u5-pad2_ net-_u5-pad1_ ] u9
a9 [gnd ] [net-_u10-pad2_ ] u10
* Schematic Name:                             dac_bridge_2, NgSpice Name: dac_bridge
.model u4 dac_bridge(out_low=0 out_high=1.8 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 )
* Schematic Name:                             ksa_4bit, NgSpice Name: ksa_4bit
.model u2 ksa_4bit(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 )
* Schematic Name:                             ksa_4bit, NgSpice Name: ksa_4bit
.model u3 ksa_4bit(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 )
* Schematic Name:                             dac_bridge_2, NgSpice Name: dac_bridge
.model u6 dac_bridge(out_low=0 out_high=1.8 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 )
* Schematic Name:                             ksa_4bit, NgSpice Name: ksa_4bit
.model u5 ksa_4bit(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 )
* Schematic Name:                             dac_bridge_5, NgSpice Name: dac_bridge
.model u7 dac_bridge(out_low=0 out_high=1.8 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 )
* Schematic Name:                             dac_bridge_2, NgSpice Name: dac_bridge
.model u8 dac_bridge(out_low=0 out_high=1.8 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 )
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u9 adc_bridge(in_low=0.2 in_high=1.6 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u10 adc_bridge(in_low=0.2 in_high=1.6 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Control Statements

.ends vedic_multiplier_4bit