* c:\fossee\esim\library\subcircuitlibrary\xor_gate_kalyan\xor_gate_kalyan.cir

.include not_gate_kalyan.sub
xsc3 y a net-_sc3-pad3_ net-_sc3-pad3_ sky130_fd_pr__nfet_01v8 w=2 l=1
xsc4 net-_sc3-pad3_ b gnd gnd sky130_fd_pr__nfet_01v8 w=2 l=1
xsc7 y abar net-_sc7-pad3_ net-_sc7-pad3_ sky130_fd_pr__nfet_01v8 w=2 l=1
xsc8 net-_sc7-pad3_ bbar gnd gnd sky130_fd_pr__nfet_01v8 w=2 l=1
xsc2 y a net-_sc1-pad1_ net-_sc1-pad1_ sky130_fd_pr__pfet_01v8 w=4 l=1
xsc1 net-_sc1-pad1_ bbar vdd vdd sky130_fd_pr__pfet_01v8 w=4 l=1
xsc5 net-_sc5-pad1_ b vdd vdd sky130_fd_pr__pfet_01v8 w=4 l=1
xsc6 y abar net-_sc5-pad1_ net-_sc5-pad1_ sky130_fd_pr__pfet_01v8 w=4 l=1
v1 vdd gnd  dc 1.8
x1 a abar not_gate_kalyan
x2 b bbar not_gate_kalyan
* u1  a b y port
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
